US04098600
α-amino-N-isopropylpropionanilide (88.5 g.) was mixed with 80 g. of concentrated formic acid, then heated at 125° C. for 2 hours. The temperature was lowered to 100° C. and toluene added. The mixture was then refluxed. Water and formic acid were removed azeotropically. Upon crystallization, the toluene solvent was removed and the residue, identified as N-isopropyl-2-formamido propionanilide, triturated with ether and filtered. The formamide, (23.4 g.), was dissolved in methylene chloride and 50.5 g. triethylamine added thereto. The clear solution was cooled to -10° C. and 22.8 g. POCl3 added. After stirring at below zero temperature for 15 minutes, excess 10% sodium carbonate solution was added, taking care that temperature did not exceed 20° C. The mixture was allowed to stir at ambient temperature briefly, then the layers were separated. The organic layer was washed with 100 ml 2% salt solution, dried over MgSO4, filtered and stripped. The oily residue was taken up in methylcyclohexane and stirred. The cyclohexane solution was decanted from the insoluble oil and cooled and scratched to produce a solid which was filtered and air-dried. Recrystallization from heptane provided 2-isocyano-N-isopropylpropionanilide melting at 47°-50° C.

reactant | α-amino-N-isopropylpropionanilide | 88.5 g | NC(C(=O)N(C1=CC=CC=C1)C(C)C)C | C12H18N2O
reactant | formic acid | C(=O)O | CH2O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-isocyano-N-isopropylpropionanilide | [N+](#[C-])C(C(=O)N(C1=CC=CC=C1)C(C)C)C | C13H16N2O
